US09340547B2
To a solution di-tert-butyl 9-((5-chloro-4-oxo-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-2-yl)methyl)-9H-purin-6-ylimidodicarbonate (100 mg, 0.2 mmol) in 2 mL of dry 1,4-dioxane under argon atmosphere 127 μL of benzylamine (1.16 mmol) were added and the mixture was stirred at 30° C. during 2 hours. At the end of this period, the reaction mixture was concentrated to dryness under reduced pressure and the residue was purified by flash chromatography silica (dichloromethane/methanol). After purification were obtained 95 mg of tert-butyl 9-(2-(2-(benzylcarbamoyl)-3-chloro-1H-pyrrol-1-ylamino)-2-oxoethyl)-9H-purin-6-ylcarbamate (92% yield).

reactant | di-tert-butyl 9-((5-chloro-4-oxo-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-2-yl)methyl)-9H-purin-6-ylimidodicarbonate | 0.2 mmol, 100 mg | ClC=1C=CN2N=C(OC(C21)=O)CN2C1=NC=NC(=C1N=C2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H24ClN7O6
reactant | benzylamine | 1.16 mmol, 127 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 9-(2-(2-(benzylcarbamoyl)-3-chloro-1H-pyrrol-1-ylamino)-2-oxoethyl)-9H-purin-6-ylcarbamate | 95 mg, 92% yield | C(C1=CC=CC=C1)NC(=O)C=1N(C=CC1Cl)NC(CN1C2=NC=NC(=C2N=C1)NC(OC(C)(C)C)=O)=O | C24H25ClN8O4
